US09162953B2
Preparation of 1-(4-methoxyphenyl)-1H-pyrazole
Following General Procedure A (125° C., 24 hours), 1H-pyrazole (102 mg, 1.5 mmol) is coupled with 4-methoxybromobenzene (1.0 mmol). The crude product is purified by flash chromatography on silica gel to provide the desired product (80% GC yield).

reactant | 1H-pyrazole | 1.5 mmol, 102 mg | N1N=CC=C1 | C3H4N2
reactant | 4-methoxybromobenzene | 1.0 mmol | COC1=CC=C(C=C1)Br | C7H7BrO
product | 1-(4-methoxyphenyl)-1H-pyrazole | 80% | COC1=CC=C(C=C1)N1N=CC=C1 | C10H10N2O
